US03949076
A suspension of 0.20 g. of Raney nickel, 6.3 g. of 1,4,5,6-tetrahydropyrimidine-1-acetaldehyde and 1.7 g. of ammonia in 50 ml. of ethanol is shaken under 20 atmospheres of hydrogen at 40° C. until one equivalent is absorbed. The catalyst is filtered off and the solvent is removed in vacuo to give 1-(2-aminoethyl)-1,4,5,6-tetrahydropyrimidine.

reactant | 1,4,5,6-tetrahydropyrimidine-1-acetaldehyde | N1(C=NCCC1)CC=O | C6H10N2O
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-aminoethyl)-1,4,5,6-tetrahydropyrimidine | NCCN1C=NCCC1 | C6H13N3
